US08871782B2
A modification of the method described in Part K of Example 45 was followed using N-{2-[4-amino-7-(6-aminohexyloxy)-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide (1.2 g, 2.5 mmol) as the starting material and acetyl chloride (200 μL, 3 mmol) in lieu of methanesulfonic anhydride. Following chromatographic purification, the solid was recrystallized from acetonitrile, and the crystals were dissolved in dichloromethane:methanol, concentrated under reduced pressure, and further dried under high vacuum at 60° C. to provide 0.47 g of N-(2-{7-[6-(acetylamino)hexyloxy]-4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl}-1,1-dimethylethyl)acetamide as a white powder, mp 190-192° C.

reactant | N-{2-[4-amino-7-(6-aminohexyloxy)-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}acetamide | 2.5 mmol, 1.2 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(C)=O)COCC)OCCCCCCN | C25H38N6O3
reactant | acetyl chloride | 3 mmol, 200 μL | C(C)(=O)Cl | C2H3ClO
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | N-(2-{7-[6-(acetylamino)hexyloxy]-4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl}-1,1-dimethylethyl)acetamide | 0.47 g | C(C)(=O)NCCCCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)(C)NC(C)=O)COCC | C27H40N6O4
